US07816557B2
Step D. 3-{4-[1-(2-[1,3]Dioxan-2-yl-4′-isopropyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester
3-{4-[1-(4-Bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester (560 mg, 1.05 mmol), potassium Fluoride (183 mg, 3.15 mmol), 4-isopropylphenyl boronic acid (344 mg, 2.1 mmol) and tetrakis(triphenylphosphine)palladium (121 mg, 0.105 mmol) are placed in a flask. After the reaction is purged with N2 for several times, THF/H2O (20 ml/5 ml) is added. The resulting solution is refluxed overnight, loaded on silica gel, eluted with hexane and ethyl acetate to give the titled compound (570 mg).

reactant | 3-{4-[1-(4-Bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | 1.05 mmol, 560 mg | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)OC1=CC(=C(C=C1)Br)C1OCCCO1)=O)=O | C26H32BrNO6
reactant | potassium Fluoride | 3.15 mmol, 183 mg | [F-].[K+]
reactant | 4-isopropylphenyl boronic acid | 2.1 mmol, 344 mg | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
catalyst | tetrakis(triphenylphosphine)palladium | 0.105 mmol, 121 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{4-[1-(2-[1,3]Dioxan-2-yl-4′-isopropyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | 570 mg | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)OC1=CC(=C(C=C1)C1=CC=C(C=C1)C(C)C)C1OCCCO1)=O)=O | C35H43NO6
